US05011927
Preparation of 4-fluoro-2-n-hexylamino-6-methoxypyrimidine (Variant B)
15.6 g (0.154 mol) of n-hexylamine were added at 0° to 2° C. to a stirred mixture of 10.4 g (0.071 mol) of 2,4-difluoro-6-methoxypyrimidine in 60 ml of methyl t.-butyl ether within 15 minutes. After 1 hour at 0° C., 4 hours at 25° C. and working up as in B 2-3, 9.6 g (60% of theory) of the title compound of nD23 =1.4938 were obtained.

reactant | n-hexylamine | 0.154 mol, 15.6 g | C(CCCCC)N | C6H15N
reactant | 2,4-difluoro-6-methoxypyrimidine | 0.071 mol, 10.4 g | FC1=NC(=CC(=N1)F)OC | C5H4F2N2O
reactant | butyl ether | C(CCC)OCCCC | C8H18O
product | 4-fluoro-2-n-hexylamino-6-methoxypyrimidine | FC1=NC(=NC(=C1)OC)NCCCCCC | C11H18FN3O
